US05519021
To a 100 mL, 3 necked, oven dried round bottomed flask, with a stirring bar, argon inlet, reflux condenser, and a septum was added ethynyl benzene (2.13 g, 20.83 mmol), dry THF (50 mL) and ethyl magnesium bromide (6.94 mL of a 3.0M solution in ether). This mixture was aged 2 h at ambient temperature then a solution of 1-(2-amino-5-chlorophenyl)-2-chloro-2,2-difluoroethanone (1.00 g, 4.17 mmol) in THF (6 mL) was added with a syringe. The resulting orange-red solution was stirred at ambient temperature for 21.5 h. The reaction was quenched by addition of 1N HCl (50 mL) then diluted with EtOAc. The solution was then made basic with concentrated NH4OH and the layers were separated. The organic phase was washed with water and brine. Drying (MgSO4), filtration, removal of the solvent in vacuo, and chromatography on silica gel using 20% EtOAc in hexane as eluant gave 1.02 g of (+/-) 2-(2-amino-5-chlorophenyl)-4-phenyl-1-chloro-1,1-difluoro-3-butyn-2-ol as an off white solid. 1H NMR (CDCl3): δ4.42 (br s, 2H), 5.10 (br s, 1H), 6.65 (d, 1H, J=8.5 Hz), 7.15 (dd, 1H, J=2.4, 8.5 Hz), 7.38 (m, 3H), 7.55 (m, 2H), 7.70 (d, J=2.4 Hz).

reactant | ethynyl benzene | 20.83 mmol, 2.13 g | C(#C)C1=CC=CC=C1 | C8H6
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 1-(2-amino-5-chlorophenyl)-2-chloro-2,2-difluoroethanone | 4.17 mmol, 1.00 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)Cl)=O | C8H5Cl2F2NO
solvent | ether | CCOCC | C4H10O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (+/-) 2-(2-amino-5-chlorophenyl)-4-phenyl-1-chloro-1,1-difluoro-3-butyn-2-ol | 1.02 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)Cl)(C#CC1=CC=CC=C1)O | C16H11Cl2F2NO
